US08232403B2
To a mixture of crude 8-benzyloxymethyl-1,4-dioxa-spiro[4.5]decane (297 g) in THF (600 mL) is added 3N HCl (900 mL) at room temperature, and the mixture is stirred overnight. After addition of sat. NaHCO3 aq., the mixture is extracted with EtOAc. The water layer is extracted with EtOAc, and the combined organic layer is washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The crude mixture is purified by silica gel column chromatography to afford 4-benzyloxymethylcyclohexanone.

reactant | 8-benzyloxymethyl-1,4-dioxa-spiro[4.5]decane | 297 g | C(C1=CC=CC=C1)OCC1CCC2(OCCO2)CC1 | C16H22O3
reactant | HCl | 3N, 900 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 4-benzyloxymethylcyclohexanone | C(C1=CC=CC=C1)OCC1CCC(CC1)=O | C14H18O2
